US05114960
3.06 g (0.01 mol) of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-6-carboxylate in 20 ml of dry tetrahydrofuran were added at -70° C. to a solution of lithium diisopropylamide prepared by adding 6 ml of a 2.5M solution of n-butyllithium in hexane over a period of 0.25 hour to a solution of 1.5 g (0.01015 mol) of diisopropylamine in 40 ml of tetrahydrofuran at -70° C. After stirring for 0.5 hour, 2.13 g (0.015 mol) of methyl iodide in 5 ml of tetrahydrofuran were added and the mixture was allowed to warm to 10° C. over a period of 0.5 hour. The mixture was added to ice/water and extracted three times with diethyl ether. The extracts were washed with sodium chloride solution to give 4.4 g of crude product which was purified by column chromatography on silica gel using hexane/diethyl ether for the elution. There were obtained 1.58 g of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-6-methyl-4H-cyclohept[d]isoxazole-6-carboxylate; NMR: δ CDCl3 : 7.35 (m, 4H), 3.6 (s, 3H), 2.85 (m, 2H), 2.47 (m, 2H), 2.15 (m, 2H), 1.6 (m, 2H), 1.2 (3H).

reactant | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-6-carboxylate | 0.01 mol, 3.06 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(CC2)C(=O)OC | C16H16ClNO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 0.01015 mol, 1.5 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl iodide | 0.015 mol, 2.13 g | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-6-methyl-4H-cyclohept[d]isoxazole-6-carboxylate | 1.58 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCC(CC2)(C(=O)OC)C | C17H18ClNO3
